US07544697B2
Sodium tert-butoxide (5.98 g, 62.2 mmol) was added to a solution of 4-methyl-4-benzamido-2-pentanone (12.4 g, 56.5 mmol) and ethyl diethoxyacetate (11.0 g, 62.2 mmol) in ethanol (40 mL), and the reaction was heated at reflux under a nitrogen atmosphere for 3.5 hours. The solvent was removed under reduced pressure, and the residue was partitioned between saturated aqueous ammonium chloride and tert-butyl methyl ether. The aqueous solution was extracted twice with tert-butyl methyl ether, and the combined organic fractions were dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide 17.5 g of N-(6,6-diethoxy-1,1-dimethyl-3,5-dioxohexyl)benzamide as a brown oil.

reactant | Sodium tert-butoxide | 62.2 mmol, 5.98 g | CC(C)([O-])C.[Na+]
reactant | 4-methyl-4-benzamido-2-pentanone | 56.5 mmol, 12.4 g | CC(CC(C)=O)(C)NC(C1=CC=CC=C1)=O | C13H17NO2
reactant | ethyl diethoxyacetate | 62.2 mmol, 11.0 g | C(C)OC(C(=O)OCC)OCC | C8H16O4
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | N-(6,6-diethoxy-1,1-dimethyl-3,5-dioxohexyl)benzamide | 17.5 g | C(C)OC(C(CC(CC(C)(C)NC(C1=CC=CC=C1)=O)=O)=O)OCC | C19H27NO5
